US08138176B2
f) Ethyl (1-trityl-1H-imidazol-4-ylmethoxy)acetate
58.0 mmol of sodium hydride (60% dispersion in paraffin) are added in portions to a solution of 30.0 mmol of (1-trityl-1H-imidazol-4-yl)methanol [33769-07-2] in 300 ml of N,N-dimethylformamide at 20° C. The mixture is stirred at 20° C. for 1.5 hours. 50.0 mmol of ethyl bromoacetate [105-36-2] and 6.00 mmol of potassium iodide are added, and the mixture is stirred at room temperature for 16 hours. A further 58.0 mmol of sodium hydride and 50 mmol of ethyl bromoacetate are added and the mixture is stirred again for 16 hours. The reaction mixture is poured into water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with water and brine, dried with magnesium sulphate and evaporated. The title compound is obtained as a brown oil from the residue by flash chromatography (SiO2 60 F). Rf=020 (ethyl acetate-heptane 2:1), Rt=4.32 (gradient I).

reactant | sodium hydride | 58.0 mmol | [H-].[Na+]
reactant | (1-trityl-1H-imidazol-4-yl)methanol | 30.0 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CO | C23H20N2O
reactant | ethyl bromoacetate | 50.0 mmol | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | 6.00 mmol | [I-].[K+]
reactant | sodium hydride | 58.0 mmol | [H-].[Na+]
reactant | ethyl bromoacetate | 50 mmol | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl (1-trityl-1H-imidazol-4-ylmethoxy)acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COCC(=O)OCC | C27H26N2O3
